US05272147
5-(2-Ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
4-(2-Ethoxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide (223 g, 0.676 mol) was added portionwise to a solution of sodium hydroxide (54 g, 1.35 mol) and 30% hydrogen peroxide solution (224 ml) in water (2000 ml). Ethanol (700 ml) was added and the resulting mixture heated under reflux for 2.5 hours, cooled, then evaporated under vacuum. The resulting solid was treated with 2N hydrochloric acid (380 ml), with external cooling, and the mixture was extracted with dichloromethane (1×700 ml, 3×200 ml). The combined organic extracts were washed successively with saturated aqueous sodium carbonate solution (3×400 ml) and brine (300 ml), then dried (Na2SO4) and evaporated under vacuum.

reactant | 4-(2-Ethoxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide | 0.676 mol, 223 g | C(C)OC1=C(C(=O)NC=2C(=NN(C2C(=O)N)C)CCC)C=CC=C1 | C17H22N4O3
reactant | sodium hydroxide | 1.35 mol, 54 g | [OH-].[Na+]
reactant | hydrogen peroxide | 224 ml | OO | H2O2
reactant | Ethanol | 700 ml | C(C)O | C2H6O
solvent | water | 2000 ml | O | H2O
product | 5-(2-Ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H20N4O2
